US04261892
Preparation of 3-{4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazin-2-yl}-3-azabicyclo[3.2.2]nonane
A 10.25 g. portion of 2-chloro-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine and 7.65 g. of 3-azabicyclo[3.2.2]nonane in 50 ml. of diglyme is heated at reflux for 3 hours and then cooled, giving a pink solid. This solid is collected, washed with diglyme, suspended in 500 ml. of water, stirred, filtered and washed with water giving a pink solid. This solid is recrystallized from ethanol (charcoal being employed in decolorization) to give the desired product m.p. 282°-284° C.

reactant | 2-chloro-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine | ClC1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C17H32ClN5
reactant | 3-azabicyclo[3.2.2]nonane | C12CNCC(CC1)CC2 | C8H15N
solvent | diglyme | COCCOCCOC | C6H14O3
product | 3-{4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazin-2-yl}-3-azabicyclo[3.2.2]nonane | CC(C(C)(C)C)(C)NC1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)N1CC2CCC(C1)CC2 | C25H46N6
